US08895580B2
Step 2: Preparation of 2-(2-fluorophenyl)-5-[(2′-methyl-3,3′-bipyridin-6-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
5-[(5-Bromopyridin-2-yl)methyl]-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one (51 mg, 0.11 mmol), 2-dicyclohexylphosphino-2′,4′,6′-tri-iso-propyl-1,1′-biphenyl (16 mg, 0.034 mmol, 0.3 equiv), (2-methylpyridin-3-yl)boronic acid (26 mg, 0.19 mmol, 1.7 equiv), palladium(II) acetate (2.6 mg, 0.011 mmol, 0.1 equiv) and an aqueous solution (0.1 mL) of potassium carbonate (39 mg, 0.28 mmol, 2.5 equiv) were combined in dimethylsulfoxide (0.5 mL) and placed into a preheated oil bath at 85° C. for 90 minutes. The mixture was cooled to ambient temperature, stirred with Quadrapure® (50 mg, 1 wt equiv) for 1 hour, filtered and purified by reverse phase HPLC (80:20 to 5:95; water containing 0.1% trifluoroacetic acid:acetonitrile containing 0.1% trifluoroacetic acid), providing the titled compound: 1H-NMR (500 MHz, d6-DMSO) δ 9.10 (1H, s), 8.57 (1H, d, J=2.1 Hz), 8.55 (1H, d, J=4.6 Hz), 8.21 (1H, dd, J=7.9, 1.4 Hz), 7.96 (1H, dd, J=8.1, 2.4 Hz), 7.84 (1H, d, J=8.7 Hz), 7.80 (1H, br s), 7.72 (1H, d, J=8.3 Hz), 7.65 (1H, ddd, J=8.6, 7.3, 1.5 Hz), 7.61 (1H, td, J=7.8, 1.6 Hz), 7.54 (1H, br t, J=7.6 Hz), 7.48-7.38 (3H, m), 7.34 (1H, td, J=7.6, 1.5 Hz), 5.92 (2H, s), 2.44 (3H, s) ppm; low resolution mass spectrometry (ES+) m/z 462.1709 [(M+H)+; calculated for C28H21FN5O: 462.1725].

reactant | 5-[(5-Bromopyridin-2-yl)methyl]-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | 0.11 mmol, 51 mg | BrC=1C=CC(=NC1)CN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C=CC=C2)F | C22H14BrFN4O
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-iso-propyl-1,1′-biphenyl | 0.034 mmol, 16 mg, 0.3 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | (2-methylpyridin-3-yl)boronic acid | 0.19 mmol, 26 mg, 1.7 equiv | CC1=NC=CC=C1B(O)O | C6H8BNO2
reactant | potassium carbonate | 0.28 mmol, 0.1 mL, 39 mg, 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
catalyst | palladium(II) acetate | 0.011 mmol, 2.6 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2-fluorophenyl)-5-[(2′-methyl-3,3′-bipyridin-6-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=N2)C=2C(=NC=CC2)C)C1=O | C28H20FN5O
